US05039805
5-Aminosalicyclic acid is reacted with di-t-butyl dicarbonate and triethylamine in t-butanol and water to give 5-(1-t-butoxyformamido)salicylic acid, m.p. >270° C., MS: 253 (8, M).

reactant | 5-Aminosalicyclic acid | NC1=CC=C(C(C(=O)O)=C1)O | C7H7NO3
reactant | di-t-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | t-butanol | C(C)(C)(C)O | C4H10O
solvent | water | O | H2O
product | 5-(1-t-butoxyformamido)salicylic acid | C(C)(C)(C)OC(=O)NC1=CC=C(C(C(=O)O)=C1)O | C12H15NO5
